US08461178B2
1-Ethyl-3-[7-(3,4,5-trimethoxy-phenylamino)-[1,5]naphthyridin-2-yl]-thiourea (6)
In a sealed reactor, 88 mg (269 μmol, 1 eq) of N*7*-(3,4,5-trimethoxy-phenyl)-[1,5]naphthyridine-2,7-diamine and 48 μL (538 μmol, 2 eq) of ethyl isothiocyanate were introduced in 3 mL of pyridine. The mixture was stirred at 140° C. for 24 h. The mixture was allowed to reach rt and the solvent was removed under reduced pressure. The residue was purified by column chromatography using methylene chloride/ethanol: 96/4 as eluent. The solvent was evaporated to dryness to afford 56 mg of yellow powder with 51% yield.

reactant | N*7*-(3,4,5-trimethoxy-phenyl)-[1,5]naphthyridine-2,7-diamine | 269 μmol, 88 mg, 1 eq | COC=1C=C(C=C(C1OC)OC)NC1=CN=C2C=CC(=NC2=C1)N | C17H18N4O3
reactant | ethyl isothiocyanate | 538 μmol, 48 μL, 2 eq | C(C)N=C=S | C3H5NS
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 1-Ethyl-3-[7-(3,4,5-trimethoxy-phenylamino)-[1,5]naphthyridin-2-yl]-thiourea | 56 mg, 51% yield | C(C)NC(=S)NC1=NC2=CC(=CN=C2C=C1)NC1=CC(=C(C(=C1)OC)OC)OC | C20H23N5O3S
